US07067540B2
N-{3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-fluorobenzyl}propanamide
A 10 mL round bottomed flask equipped with stirbar and nitrogen inlet was charged with 1-[5-(aminomethyl)-2-fluorophenyl]-3-chloro-4-[(2,4 difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one hydrochloride (250 mg, 0.56 mmol), propionyl chloride (49 μL, 0.56 mmol), triethylamine (195 μL, 1.4 mmol) and tetrahydrofuran (4.0 mL). After stirring at 25° C. for 5 min the reaction was completed by LC-MS. The reaction mixture was poured into a saturated aqueous NH4Cl solution. The aqueous mixture was extracted with ethyl acetate. The organic phase was dried with Na2SO4 and concentrated in vacuo to obtain (240 mg, 91%) as a yellow solid. 1H NMR (400 MHz, (CD3)2SO) δ 8.3 (t, J=5.8 Hz, 1H), 7.6 (q, J=8.7 and 6.58 Hz, 1H), 7.38 (d, J=7.78 Hz, 1H), 7.3 (dd, J=2.6 and 7.6 Hz, 1H), 7.22 (d, J=7.51 Hz, 1H), 7.12 (td, J=2.0 and 6.5 Hz, 1H), 6.65 (s, 1H), 5.3 (s, 2H), 4.23 (d, J=3.6 Hz, 2H), 2.1 (q, J=7.7 Hz 2H), 1.98 (s, 3H), 0.98 (t, J=7.5 Hz, 3H) ppm. ES-HRMS m/z 465.1203 (M+H calcd for C23H21ClF3N2O3 requires 465.1187).

reactant | 1-[5-(aminomethyl)-2-fluorophenyl]-3-chloro-4-[(2,4 difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one hydrochloride | 0.56 mmol, 250 mg | Cl.NCC=1C=CC(=C(C1)N1C(C(=C(C=C1C)OCC1=C(C=C(C=C1)F)F)Cl)=O)F
reactant | propionyl chloride | 0.56 mmol, 49 μL | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 1.4 mmol, 195 μL | C(C)N(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | N-{3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-fluorobenzyl}propanamide | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C=1C=C(CNC(CC)=O)C=CC1F)=O | C23H20ClF3N2O3
